US07314888B1
In a mixture of 15 ml of ethyl acetate and 15 ml of ethanol is dissolved 5.00 g of methyl 4-(benzyloxy)-2-isobutoxybenzoate, to which is added 1.0 g of 5% palladium-carbon. The mixture thus obtained is stirred at ambient temperature for 3 hours in a stream of hydrogen. The reaction mixture is filtered with Celite, and the solvent is distilled off therefrom under reduced pressure. Then, 19 ml of 5 mol/L solution of sodium hydroxide is added to a solution of the residue obtained above in 35 ml of ethanol, and the mixture thus obtained is stirred at 50° C. for one hour. The reaction mixture is added to a mixture of chloroform and water, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. To a solution of the residue thus obtained in 20 ml of tetrahydrofuran are successively added 2.0 ml of triethylamine and 0.8 ml of acetyl chloride, and the mixture thus obtained is stirred at ambient temperature for 10 minutes. The reaction mixture is added to a mixture of ethyl acetate and water, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. Thus, 1.37 g of 4-acetyloxy-2-isobutoxybenzoic acid is obtained as a light yellow oily product.

reactant | methyl 4-(benzyloxy)-2-isobutoxybenzoate | 5.00 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1)OCC(C)C | C19H22O4
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
reactant | acetyl chloride | 0.8 ml | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 1.0 g | [C].[Pd]
solvent | water | O | H2O
solvent | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-acetyloxy-2-isobutoxybenzoic acid | 1.37 g | C(C)(=O)OC1=CC(=C(C(=O)O)C=C1)OCC(C)C | C13H16O5
